US07745641B2
In a similar manner to Step 1 of Example 56, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (20.0 mg, 0.0487 mmol) was dissolved in dichloromethane (0.5 mL). The solution was treated with 4-(aminomethyl)pyridine (0.010 mL, 0.099 mmol) and sodium triacetoxyborohydride (32 mg, 0.15 mmol) to obtain 4-chloro-7-{1-(tert-butoxycarbonyl)-5-[(pyridin-4-ylmethyl)amino methyl]indol-2-yl}isoindolinone.

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0487 mmol, 20.0 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | 4-(aminomethyl)pyridine | 0.099 mmol, 0.010 mL | NCC1=CC=NC=C1 | C6H8N2
reactant | sodium triacetoxyborohydride | 0.15 mmol, 32 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 4-chloro-7-{1-(tert-butoxycarbonyl)-5-[(pyridin-4-ylmethyl)amino methyl]indol-2-yl}isoindolinone | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CNCC1=CC=NC=C1)C(=O)OC(C)(C)C)=O | C28H27ClN4O3
